US04442126
(d) 2-Propylamino-5-amino-6-methoxy-1,2,3,4-tetrahydronaphthalene
0.46 g of lithium aluminium hydride is introduced into 30 ml of tetrahydrofuran, a solution of 2.56 g of 2-propanoylamino-5-amino-6-methoxy-1,2,3,4-tetrahydronaphthalene in 50 ml of tetrahydrofuran is then added and the mixture is heated under reflux for 24 hours. It is then cooled and hydrolysed with a 2 N solution of sodium hydroxide, in an ice-bath. The organic phase is separated off, dried and concentrated to dryness. After chromatography on silica with a 1/1 diethyl ether/methanol mixture, 1.8 g of a yellowish oil are collected.

reactant | lithium aluminium hydride | 0.46 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-propanoylamino-5-amino-6-methoxy-1,2,3,4-tetrahydronaphthalene | 2.56 g | C(CC)(=O)NC1CC2=CC=C(C(=C2CC1)N)OC | C14H20N2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-Propylamino-5-amino-6-methoxy-1,2,3,4-tetrahydronaphthalene | C(CC)NC1CC2=CC=C(C(=C2CC1)N)OC | C14H22N2O
